US05457192
2.56 g (20.0 mmol) of 1,6-anhydro-3,4-dideoxy-β-D-threo-hex-3-enopyranose, 10.49 g (40.0 mmol) of triphenyl phosphine, and 4.88 g (40 mmol) of benzoic acid were added to 32 ml of dry THF, and a solution obtained by dissolving 6.97 g (40.0 mmol) of diethylazodicarboxylate in 32 ml of dry THF was gradually dropped in the above mixture in a nitrogen-sealed ice-water bath. The resultant solution was stirred at room temperature for 23 hours. The solvent was distilled from the reaction solution at a reduced pressure. Triphenyl phosphine oxide as a byproduct was eliminated from the residue using a silica gel column (eluent: chloroform). The solvent was distilled from the resultant eluate at a reduced pressure, and the residue was purified using a silica gel column (hexane:ethyl acetate=5:1 to 4:1). The purified residue was recrystallized from a solvent mixture of hexane and diethyl ether (a mixing ratio of 1:1) to obtain 3.48 g (yield: 74.9%) of 1,6-anhydro-3,4-dideoxy-2-O-(benzoyl)-β-D-erythro-hex-3-enopyranose.

reactant | 1,6-anhydro-3,4-dideoxy-β-D-threo-hex-3-enopyranose | 20.0 mmol, 2.56 g | [C@H]12[C@@H](O)C=C[C@H](O1)CO2 | C6H8O3
reactant | triphenyl phosphine | 40.0 mmol, 10.49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzoic acid | 40 mmol, 4.88 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | diethylazodicarboxylate | 40.0 mmol, 6.97 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 32 ml | C1CCOC1 | C4H8O
solvent | THF | 32 ml | C1CCOC1 | C4H8O
product | 1,6-anhydro-3,4-dideoxy-2-O-(benzoyl)-β-D-erythro-hex-3-enopyranose | 3.48 g, yield: 74.9% | C(C1=CC=CC=C1)(=O)O[C@H]1[C@H]2O[C@@H](C=C1)CO2 | C13H12O4
